* source CT
I_I1         N00197 0 DC 0Adc AC 0Aac
+PULSE 30A -30A 0 1us 1us 25us 50us
L_L1         N00197 0  14.7uH  
L_L2         N00102 N00178  317mH  
D_D1         N00102 N00203 D1N4148 
D_D2         0 N00102 D1N4148 
D_D3         0 N00178 D1N4148 
D_D4         N00178 N00203 D1N4148 
R_R2         0 N00203  10  
C_C1         N00203 0  10uF  
Kn_K1         L_L1 L_L2     1 
