* source DEADTIME
V_V1         N00018 0  
+PULSE 0 4V 0 .1us .1us 30us 60us
D_D1         N00025 N00018 D1N4148 
R_R1         N00018 N00025  1k  
C_C1         0 N00025  10n  
R_R2         N000131 N00087  1k  
V_V2         N00087 0 5Vdc
X_U2         N002240 0 N000131 0 PS2501 PARAMS: REL_CTR=1
R_R6         N00018 N003880  1k  
X_U3         N00087 N003880 N003903 0 PS2501 PARAMS: REL_CTR=1
R_R7         N003903 N00087  1k  
R_R4         N00025 N002240  1k  
