* source DRIVER
V_V2         N00045 0  
+PULSE -10 10 5us 0 0 
L_L1         N00111 0  400uH  
L_L2         0 N00051  400uH  
R_R1         N00051 N00054  22  
C_C1         0 N00054  3n  
Kn_K1         L_L1 L_L2     1 
R_R2         N00045 N00111  10  
