* source FILTER
L_L1         N000050 N00034  1.3mH  
C_C1         0 N00034  10uF  
V_V2         N00028 0   PWL   
+ FILE "dspwm.stl" 
R_R1         N00028 N000050  1  
